US07544685B2
Methyl (RS)-(1-tert-Butoxycarbonyl-2,3-dihydro-1H-indol-3-yl)acetic acid
Methyl (RS)-(2,3-Dihydro-1H-indol-3-yl)acetate (97.2 g, 0.51 mol) was dissolved in tetrahydrofuran (1000 mL), and a solution of di-tert-butyl dicarbonate (118.2 g, 0.54 mol) in tetrahydrofuran (500 mL) was added. The resulting mixture was stirred at room temperature for 16 h and poured into water. The aqueous phase was extracted with diethyl ether, and the combined organic phase was washed with brine and dried (MgSO4). The organic solvent was removed in vacuo, and the oily residue was purified by flash chromatography (heptane/ethyl acetate 2:1) to give crude title compound (148 g, 100%).

reactant | Methyl (RS)-(2,3-Dihydro-1H-indol-3-yl)acetate | 0.51 mol, 97.2 g | N1CC(C2=CC=CC=C12)CC(=O)OC | C11H13NO2
reactant | di-tert-butyl dicarbonate | 0.54 mol, 118.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | O | H2O
reactant | tetrahydrofuran | 1000 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
product | Methyl (RS)-(1-tert-Butoxycarbonyl-2,3-dihydro-1H-indol-3-yl)acetic acid | 148 g, 100% | CC(C(=O)O)C1CN(C2=CC=CC=C12)C(=O)OC(C)(C)C | C16H21NO4
